US07335658B2
6-[4-(2-CHLORO-4-TRIFLUOROMETHYLPYRIMIDINE-5-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 2-chloro-4-trifluoromethylpyrimidine-5-carbonyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder (35% yield). 1H NMR (300 MHz, CDCl3) δ 8.77, 8.08, 7.97, 7.01, 4.06-3.68, 3.55, 3.39, 1.50, 0.76-0.71, 0.48-0.42, 0.10-0.05.

reactant | 2-chloro-4-trifluoromethylpyrimidine-5-carbonyl chloride | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)Cl | C6HCl2F3N2O
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2-CHLORO-4-TRIFLUOROMETHYLPYRIMIDINE-5-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C=1C(=NC(=NC1)Cl)C(F)(F)F | C20H21ClF3N7O2
